US08877968B2
470 mg (2.17 mmol) of di-tert-butyl dicarbonate dissolved in 5 mL of dichloromethane are added to a solution of 500 mg (1.97 mmol) of 1-(4-phenylpiperidin-4-yl)propan-1-one hydrochloride and 0.7 mL (4.93 mmol) of triethylamine in 5 mL of dichloromethane. The reaction mixture is stirred for 2 hours at room temperature. The reaction is stopped by adding 10 mL of water. The organic phase is dried over sodium sulfate. The solvents are evaporated off and the residue is then chromatographed on silica gel (eluent: 80/20 heptane/ethyl acetate). 582 mg of tert-butyl 4-phenyl-4-propionylpiperidine-1-carboxylate in the form of a white powder are obtained in a yield of 93%.

reactant | di-tert-butyl dicarbonate | 2.17 mmol, 470 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-(4-phenylpiperidin-4-yl)propan-1-one hydrochloride | 1.97 mmol, 500 mg | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(CC)=O
reactant | triethylamine | 4.93 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
reactant | water | 10 mL | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | tert-butyl 4-phenyl-4-propionylpiperidine-1-carboxylate | 582 mg, yield of 93% | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)C(CC)=O | C19H27NO3
